US06891066B2
The product of Example 1, Step C, 2-[(4-ethynyl-2-fluorophenyl)amino]-3,4-difluorobenzoic acid (540 mg, 1.86 mmol) and quinoline (220 mg) were dissolved in THF (50 mL), then Lindlar catalyst (11 mg) added. This mixture was stirred under an atmosphere of hydrogen (60 psi) for 3 periods of 15 minutes and monitored carefully by TLC (50% EtOAc/hexanes as eluant). The reaction mixture was filtered through Celite® which was washed well with EtOAc and the resulting filtrate concentrated (to 100 mL) under reduced pressure. This organic solution was then washed with 1 M HCl (2×100 mL), water (100 mL) and saturated NaCl solution (100 mL), dried (Na2SO4), and the solvent removed under reduced pressure. The resulting crude solid was purified by flash chromatography on silica (10% EtOAc/hexanes as eluant) to afford 3,4-difluoro-2-[(2-fluoro-4-vinylphenyl)amino]benzoic acid as a crystalline yellow solid (390 mg, 72%); m.p. (EtOAc/hexanes) 162-166° C. 1H NMR [400 MHz, (CD3)2SO] δ 13.20 (br s, 1 H), 9.30 (br s, 1 H), 7.52 (ddd, J=8.3, 6.1, 1.8 Hz, 1 H), 7.41 (dd, J=12.8, 1.7 Hz, 1 H), 7.19 (dd, J=8.3, 1.7 Hz, 1 H), 7.08 (dd, J=16.6, 9.3 Hz, 1 H), 7.00 (td, J=8.7, 5.2 Hz, 1 H), 6.67 (dd, J=17.6, 10.9 Hz, 1 H), 5.78 (d, J=17.6 Hz, 1 H), 5.22 (d, J=11.0 Hz, 1 H). Anal. Calcd for C15H10F3NO2: C, 61.4; H, 3.3; N, 4.9. Found C, 61.4; H, 3.4; N, 4.8.

reactant | 2-[(4-ethynyl-2-fluorophenyl)amino]-3,4-difluorobenzoic acid | 1.86 mmol, 540 mg | C(#C)C1=CC(=C(C=C1)NC1=C(C(=O)O)C=CC(=C1F)F)F | C15H8F3NO2
reactant | quinoline | 220 mg | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | Lindlar catalyst | 11 mg | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
product | 3,4-difluoro-2-[(2-fluoro-4-vinylphenyl)amino]benzoic acid | 390 mg, 72% | FC=1C(=C(C(=O)O)C=CC1F)NC1=C(C=C(C=C1)C=C)F | C15H10F3NO2
